US08383636B2
Di-tert-butyl dicarbonate (1.08 g, 4.9 mmol) was added portionwise to a solution of ((4R,5S)-2,2-dimethyl-5-(methylthiomethyl)-1,3-dioxolan-4-yl)methanamine (630 mg, 3.3 mmol) in methanol (10 ml, 3293 μmol) and the reaction monitored by TLC. After 10 minutes the reaction was complete therefore concentrate in vacuo. The residue was purified by flash chromatography on silica gel eluting with DCM=>5% MeOH/DCM to afford tert-butyl((4R,5S)-2,2-dimethyl-5-(methylthiomethyl)-1,3-dioxolan-4-yl)methylcarbamate (670 mg, 69.8%) as a syrup. 1H NMR (CDCl3) δ 4.99 (brs, 1H), 3.91 (m, 2H), 3.47 (m, 2H), 3.31 (m, 1H), 2.72 (d, J=5.4 Hz, 2H), 2.18 (s, 3H), 1.45 (s, 9H), 1.41 (s, 6H). 13C NMR (CDCl3) δ 156.7, 109.9, 80.4, 80.2, 78.1, 42.7, 37.3, 29.1, 27.9, 17.2.

reactant | Di-tert-butyl dicarbonate | 4.9 mmol, 1.08 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ((4R,5S)-2,2-dimethyl-5-(methylthiomethyl)-1,3-dioxolan-4-yl)methanamine | 3.3 mmol, 630 mg | CC1(O[C@@H]([C@H](O1)CN)CSC)C | C8H17NO2S
reactant | methanol | 3293 μmol, 10 ml | CO | CH4O
product | tert-butyl((4R,5S)-2,2-dimethyl-5-(methylthiomethyl)-1,3-dioxolan-4-yl)methylcarbamate | 670 mg, 69.8% | C(C)(C)(C)OC(NC[C@H]1OC(O[C@@H]1CSC)(C)C)=O | C13H25NO4S
